US07872031B2
3-Amino-N-(2,3-difluorophenyl)-N′-aminopyrazine-2-carboxamidine (500 mg, 1.89 mmol) was dissolved in CH(OEt)3 (20 mL) and HCOOH (5 mL) was added slowly at RT. The solution was kept at RT for 30 min and carefully neutralized with saturated NaHCO3 and 6N NaOH until a pH of 10 was achieved. The resulting mixture was extracted with ethyl acetate. The combined organic layers were dried over MgSO4 and evaporated to produce 3-(4-(2,3-Difluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine as yellow solid (480 mg, 92%). A small amount of the crude product was purified by HPLC for characterization and the remainder used directly in the next reaction without further purification. LC-MS m/e=274.8 (M+H). Using the same procedure, 3-(4-(2,3-dichlorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine, 3-(4-(3-chloro-2-fluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine, 3-(4-(2,3-difluorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine, 3-(4-(2,3-dichlorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine, and 3-(4-(3-chloro-2-fluorophenyl)-4H-1,2,4-triazol-3-yl)pyridin-2-amine can be produced from 3-amino-N-(2,3-dichlorophenyl)-N′-aminopyrazine-2-carboxamidine, 3-amino-N-(3-chloro-2-fluorophenyl)-N′-aminopyrazine-2-carboxamidine, 2-amino-N-(2,3-difluorophenyl)-N′-aminopyridine-3-carboxamidine, 2-amino-N-(2,3-dichlorophenyl)-N′-aminopyridine-3-carboxamidine, and 2-amino-N-(3-chloro-2-fluorophenyl)-N′-aminopyridine-3-carboxamidine, respectively.

reactant | 3-Amino-N-(2,3-difluorophenyl)-N′-aminopyrazine-2-carboxamidine | 1.89 mmol, 500 mg | NC=1C(=NC=CN1)C(=NN)NC1=C(C(=CC=C1)F)F | C11H10F2N6
reactant | HCOOH | 5 mL | C(=O)O | CH2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaOH | 6N | [OH-].[Na+]
solvent | CH(OEt)3 | 20 mL | C(OCC)(OCC)OCC | C7H16O3
product | 3-(4-(2,3-Difluorophenyl)-4H-1,2,4-triazol-3-yl)pyrazin-2-amine | 480 mg, 92% | FC1=C(C=CC=C1F)N1C(=NN=C1)C=1C(=NC=CN1)N | C12H8F2N6
